US07622471B2
6-Methoxypyridine-2-carbonitrile
Copper(I) cyanide (2.68 g) was added to 2-bromo-6-methoxypyridine (5.62 g) in N,N-dimethylformamide (112 mL) at room temperature, followed by stirring at 165° C. for 15 hours. The resultant mixture was cooled in air. Water and ethyl acetate was added to the mixture. The insoluble matter that was formed in the mixture was filtered by Celite. The filtrate was partitioned between water and ethyl acetate. The organic layer was dried over sodium sulfate anhydrate, followed by filtration. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography (hexane-ethyl acetate), to thereby give the title compound as a solid substance (1.78 g, 44%).

reactant | Copper(I) cyanide | 2.68 g | [Cu]C#N
reactant | 2-bromo-6-methoxypyridine | 5.62 g | BrC1=NC(=CC=C1)OC | C6H6BrNO
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 112 mL | CN(C=O)C | C3H7NO
product | 6-Methoxypyridine-2-carbonitrile | COC1=CC=CC(=N1)C#N | C7H6N2O
